US04459302
1-Acetyl-3-(3-methoxyphenyl)-5-(2 -methylphenyl)-1H-1,2,4-triazole
A solution of 0.8 g (0.003 mole) of 3-(3-methoxyphenyl)-5-(2-methylphenyl)-1H-1,2,4-triazole and 3 ml (0.00317 mole) of acetic anhydride was heated for two hours on a hot water bath. After evaporating the excess of anhydride by distillation under vacuum, the obtained residue was taken up with a mixture of diisopropyl ether and light petroleum. After standing overnight, a precipitate formed which was recovered by filtration. Yield: 0.72 g (78%) of the title compound M.p. 107°-110° C. Δδ=-0.26.

reactant | 3-(3-methoxyphenyl)-5-(2-methylphenyl)-1H-1,2,4-triazole | 0.003 mole, 0.8 g | COC=1C=C(C=CC1)C1=NNC(=N1)C1=C(C=CC=C1)C | C16H15N3O
reactant | acetic anhydride | 0.00317 mole, 3 ml | C(C)(=O)OC(C)=O | C4H6O3
product | 1-Acetyl-3-(3-methoxyphenyl)-5-(2 -methylphenyl)-1H-1,2,4-triazole | C(C)(=O)N1N=C(N=C1C1=C(C=CC=C1)C)C1=CC(=CC=C1)OC | C18H17N3O2
